US06110964
A) 8-Oxabicyclo[3.2.1]octane-3,3-dicarboxylic acid diethyl ester
Sodium hydride (2.28 grams, 95 mmole) was added in portions to a stirred solution of diethyl malonate (15 mL, 99 mmole) in N,N-dimethylformamide (400 mL). The mixture was stirred for 45 minutes at which time evolution of hydrogen was complete. A solution of cis-2,5-bis(hydroxymethyl)tetrahydrofuran ditosylate (19.0 grams, 43 mmole) in N,N-dimethylformamide (400 mL) was then added dropwise. The mixture was heated in an oil bath at 140° C. overnight. After cooling to room temperature, the mixture was quenched by addition of saturated aqueous ammonium chloride solution and concentrated under vacuum. The residual oil was taken up in water and extracted with diethyl ether. The organic extract was washed with water and brine, dried over magnesium sulfate and concentrated to an oil. Distillation under vacuum afforded the title compound (7.8 grams, 71%) as a clear oil.

reactant | Sodium hydride | 95 mmole, 2.28 grams | [H-].[Na+]
reactant | diethyl malonate | 99 mmole, 15 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrogen | [H][H] | H2
reactant | cis-2,5-bis(hydroxymethyl)tetrahydrofuran ditosylate | 43 mmole, 19.0 grams | S(=O)(=O)(O)C1=CC=C(C)C=C1.S(=O)(=O)(O)C1=CC=C(C)C=C1.OC[C@@H]1O[C@@H](CC1)CO
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 8-Oxabicyclo[3.2.1]octane-3,3-dicarboxylic acid diethyl ester | 7.8 grams, 71% | C(C)OC(=O)C1(CC2CCC(C1)O2)C(=O)OCC | C13H20O5
